US08461158B2
To a suspension of N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidinyl}sulfonyl)ethyl]-N,N-dimethylamine from the previous step in MeOH (50 mL) was added a slight excess of 1.25 M HCl in MeOH (95 μL) to give a clear solution. The solvent was removed under vacuum and the residue was washed with EtOAc to give N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidinyl}sulfonyl)ethyl]-N,N-dimethylamine hydrochloride: mp (MeOH/EtOAc) 243-245° C.; Anal. Calcd. for C25H35ClF2N8O4S: C, 48.7; H, 5.7; N, 18.2; Cl, 5.7. Found: C, 48.7; H, 5.7; N, 18.0; Cl, 5.7%.

reactant | N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidinyl}sulfonyl)ethyl]-N,N-dimethylamine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C1CCN(CC1)S(=O)(=O)CCN(C)C)C=CC=C2OC)F | C25H34F2N8O4S
reactant | HCl | 1.25 M | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 95 μL | CO | CH4O
product | N-[2-({4-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1-piperidinyl}sulfonyl)ethyl]-N,N-dimethylamine hydrochloride | Cl.FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)C1CCN(CC1)S(=O)(=O)CCN(C)C)C=CC=C2OC)F | InChI=1S/C25H34F2N8O4S.ClH/c1-32(2)13-16-40(36,37)34-9-7-17(8-10-34)22-29-24(33-11-14-39-15-12-33)31-25(30-22)35-18-5-4-6-19(38-3)20(18)28-23(35)21(26)27;/h4-6,17,21H,7-16H2,1-3H3;1H
